US09422292B2
Lawesson's Reagent (237 mg, 0.58 mmol) was added to a solution of ethyl 1-(4-chlorophenyl)-2,4-dioxo-1,2,4,5-tetrahydrospiro[benzo[b][1,4]diazepine-3,1′-cyclopropane]-2′-carboxylate (150 mg, 0.39 mmol) in THF (20 mL). The resulting mixture was heated at 80° C. overnight. The solution was evaporated and purified by CombiFlash (PE:EA=1:1) to get ethyl 1-(4-chlorophenyl)-2-oxo-4-thioxo-1,2,4,5-tetrahydrospiro[benzo[b][1,4]diazepine-3,1′-cyclopropane]-2′-carboxylate (70 mg, 45%) as brown solid. LRMS (M+H)+: 400 m/z. 1H NMR (300 MHz, CDCl3): δ 0.96-1.04 (t, J=7.2 Hz, 3H), 1.19-1.25 (m, 1H), 1.70-1.76 (m, 1H), 2.17-2.19 (m, 1H), 3.73-3.96 (m, 2H), 6.68-6.71 (d, 1H, J=8.1 Hz), 7.11-7.12 (m, 1H), 7.14-7.24 (m, 4H), 7.24-7.26 (m, 2H).

reactant | Lawesson's Reagent | 0.58 mmol, 237 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | ethyl 1-(4-chlorophenyl)-2,4-dioxo-1,2,4,5-tetrahydrospiro[benzo[b][1,4]diazepine-3,1′-cyclopropane]-2′-carboxylate | 0.39 mmol, 150 mg | ClC1=CC=C(C=C1)N1C2=C(NC(C3(C(C3)C(=O)OCC)C1=O)=O)C=CC=C2 | C20H17ClN2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | ethyl 1-(4-chlorophenyl)-2-oxo-4-thioxo-1,2,4,5-tetrahydrospiro[benzo[b][1,4]diazepine-3,1′-cyclopropane]-2′-carboxylate | 70 mg, 45% | ClC1=CC=C(C=C1)N1C2=C(NC(C3(C(C3)C(=O)OCC)C1=O)=S)C=CC=C2 | C20H17ClN2O3S
